* C:\Users\luico\OneDrive\Escritorio\memristor\mem_a14_20_feb_20242.asc
V1 1 0 SINE(0 0.5 1e3)
R2 2 0 10e6
R1 3 0 10
XU1 1 3 2 A14_mod_dta_2
.tran 10ms
.lib C:\Users\luico\OneDrive\Escritorio\memristor\A14_mod.cir
.backanno
.end
